US08252806B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-m-tolyl-amine (Compound B10)
Was prepared according to Method B from 2,4-dichloroquinazoline, m-toluidine and 3,5-dimethylpyrazole. Mp. 249.2-250.4° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | m-toluidine | NC1=CC(=CC=C1)C | C7H9N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | [2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-m-tolyl-amine | CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)NC=1C=C(C=CC1)C | C20H19N5
